US08471005B2
7-(3,6-Dimethoxy-pyridazin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (70 mg, 0.2 mmol), N-Phenylbis(trifluoromethanesulphonimide) (95.1 mg, 0.266 mmol), N,N-Diisopropylethylamine (0.126 mL, 0.726 mmol), and N,N-Dimethylformamide (2 mL, 30 mmol) and stir at room temperature for half an hour. Add 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide (90.3 mg, 0.387 mmol) and stir at 60° C. overnight. An LCMS showed product. The reaction was concentrated, DMSO added, filtered and placed onto the Gilson for purification. The most pure fractions were collected, free based with saturated sodium bicarbonate, extracted with DCM, filtered and concentrated to give 2-(4-{4-[7-(3,6-Dimethoxy-pyridazin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide as a yellow solid (15 mg, 10%). MP 249-251° C. LCMS (E/I+) 489 (M+H). NMR 1H (DMSO-d6)-9.56 (s, 1H), 9.1 (s, 1H), 8.27 (s, 1H), 7.60 (d, 2H, J=8.30 Hz), 7.40 (d, 2H, J=4.82 Hz), 7.21 (bs, 1H), 7.18 (d, 1H, J=8.42 Hz), 7.13 (bs, 1H), 6.97 (d, 1H, J=4.87 Hz), 4.06 (s, 3H), 4.04 (s, 3H), 2.87-2.96 (m, 4H), 2.40-2.48 (m, 1H), 2.14-2.25 (m, 2H), 1.70-1.78 (m, 4H).

reactant | 7-(3,6-Dimethoxy-pyridazin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.2 mmol, 70 mg | COC=1N=NC(=CC1C1=CC=C2C=NC(=NN21)O)OC | C12H11N5O3
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.266 mmol, 95.1 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 0.726 mmol, 0.126 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 30 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide | 0.387 mmol, 90.3 mg | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-(4-{4-[7-(3,6-Dimethoxy-pyridazin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | 15 mg, 10% | COC=1N=NC(=CC1C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N)OC | C25H28N8O3
